US04994363
Step 1: synthesis of α-methyl-4-nitrocinnamic acid
630 ml of pyridine was added to 76 g of 4-nitrobenzaldehyde (m.p. 105°-106.5° C.), 118 g of methylmalonic acid (prepared by hydrolysis of diethyl methylmalonate) and 85 g of piperidine. The mixture was heated with stirring over a steam bath for 24 hours. After being allowed to cool, the reaction mixture was then added to a mixture of 1,250 ml of concentrated hydrochloric acid and 2.5 kg of ice. The resulting oil content was then extracted with diethyl ether. The oil content was further extracted with a 5% aqueous solution of sodium hydroxide. The aqueous solution was then slightly acidified. The resulting crystal composition was then filtered off and dried. (Yield: 86 g (83%))

reactant | 4-nitrobenzaldehyde | 76 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | methylmalonic acid | 118 g | CC(C(=O)O)C(=O)O | C4H6O4
reactant | piperidine | 85 g | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 1,250 ml | Cl | ClH
solvent | pyridine | 630 ml | N1=CC=CC=C1 | C5H5N
product | α-methyl-4-nitrocinnamic acid | CC(C(=O)O)=CC1=CC=C(C=C1)[N+](=O)[O-] | C10H9NO4
